US07557114B2
(b) 5-Formyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester
To a stirred solution of 3.79 mmol 5-vinyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester in 25 ml THF and 5 ml water were added 11.4 mmol sodium metaperiodate and 0.08 mmol osmium tetroxide solution (2.5% in tBuOH) and the mixture was stirred at RT for 2 h before being taken up in ethyl acetate and washed sequentially with water and brine. The organic phase was then dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a white solid (62% yield). MS (m/e): 192.1 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-vinyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 3.79 mmol | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C=C | C15H19NO2
reactant | sodium metaperiodate | 11.4 mmol | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | osmium tetroxide | 0.08 mmol | [Os](=O)(=O)(=O)=O
product | 5-Formyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester | 62% yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C=O | C14H17NO3
